US06924278B2
Benzaldehyde (17.4 ml) was added dropwise to a solution of 2-amino-2-methyl-1,3-propanediol (20 g) in methanol (200 ml) at 0° C. and the whole was stirred at room temperature for 2 hours. Sodium borohydride (11.5 g) was added thereto in portions at 0° C. and the mixture was stirred for 10 minutes. 1N Sodium hydroxide solution and ethyl acetate were added and the organic layer was separated, dried over magnesium sulfate, and evaporated in vacuo to give 2-benzylamino-2-methyl-1,3-propanediol (28.54 g).

reactant | Benzaldehyde | 17.4 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-amino-2-methyl-1,3-propanediol | 20 g | NC(CO)(CO)C | C4H11NO2
reactant | Sodium borohydride | 11.5 g | [BH4-].[Na+]
reactant | Sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzylamino-2-methyl-1,3-propanediol | 28.54 g | C(C1=CC=CC=C1)NC(CO)(CO)C | C11H17NO2
